US04666906
A solution of 1-(methylamino)-2,2-dimethoxyethane (132.6 g; 1.11 mol) and pyridine (94.5 ml; 1.17 mol) in THF (1.3 ) was brought to 0°-5° C. with an ice-bath and nitrosonium tetrafluoroborate (139.5 g; 1.19 mol) was added in portions over 35 minutes. Fuming was observed and the temperature of the reaction mixture was kept below 20° C. throughout the addition. After stirring an additional 20 minutes, the white solid which had formed (pyridinium tetrafluoroborate) was filtered and CH2Cl2 and H2O were added. The organic phase was washed a second time with H2O, dried (anhyd. Na2CO3) and concentrated in vacuo at 40° C. to yield an amber oil. This oil was distilled at vacuum pump pressure (2-4 mm Hg) to yield Compound (XXVII-A), N-Methyl-N-(2,2-dimethoxyethyl)nitrosoamine (73.0 g; 44%) as a yellow liquid: bp 75°-85° C. Both TLC and NMR indicated a mixture of Z and E isomers.

reactant | 1-(methylamino)-2,2-dimethoxyethane | 1.11 mol, 132.6 g | CNCC(OC)OC | C5H13NO2
reactant | pyridine | 1.17 mol, 94.5 ml | N1=CC=CC=C1 | C5H5N
reactant | nitrosonium tetrafluoroborate | 1.19 mol, 139.5 g | F[B-](F)(F)F.N#[O+]
solvent | THF | C1CCOC1 | C4H8O
product | pyridinium tetrafluoroborate | F[B-](F)(F)F.[NH+]1=CC=CC=C1 | InChI=1S/C5H5N.BF4/c1-2-4-6-5-3-1;2-1(3,4)5/h1-5H;/q;-1/p+1
